US07157487B2
In DMF (15 ml) were dissolved 1-isoquinolinecarboxylic acid (1.00 g, 5.77 mmol), ethyl 4-amino-3-bromophenylacetate (1.49 g, 5.77 mmol), HOBt (0.39 g, 2.89 mmol), and DMAP (0.14 g, 1.15 mmol). To the resulting solution was added EDC HCl (1.33 g, 6.93 mmol). After stirring at 60° C. for 5 hours, the reaction mixture was cooled to room temperature. Water was added, followed by extraction with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from n-hexane:ethyl acetate (4:1, v/v) eluate fractions, ethyl (3-bromo-4-((1-isoquinolinylcarbonyl)amino)phenyl)acetate (1.64 g, 69%) was obtained as a yellow solid.

reactant | 1-isoquinolinecarboxylic acid | 5.77 mmol, 1.00 g | C1(=NC=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | ethyl 4-amino-3-bromophenylacetate | 5.77 mmol, 1.49 g | NC1=C(C=C(C=C1)CC(=O)OCC)Br | C10H12BrNO2
reactant | HOBt | 2.89 mmol, 0.39 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC HCl | 6.93 mmol, 1.33 g | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 1.15 mmol, 0.14 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | Water | O | H2O
product | ethyl (3-bromo-4-((1-isoquinolinylcarbonyl)amino)phenyl)acetate | 1.64 g, 69% | BrC=1C=C(C=CC1NC(=O)C1=NC=CC2=CC=CC=C12)CC(=O)OCC | C20H17BrN2O3
